US07910592B2
To a −78° C. solution of 1,4-dioxaspiro[4.5]decan-8-one (1.5 g, 9.6 mmol) in THF (50 mL) was added LiHMDS (11.1 mL of a 1M solution in THF, 11.1 mmol). After stirring for 1 hour at −78° C., 2-[N,N-bis(trifluormethyl-sulfonyl)amino]-5-chloropyridine (3.8 g, 9.6 mmol) in THF (20 mL) was added by cannula. The reaction was warmed to room temperature and stirred for 12 hours. The reaction was then poured into water (100 mL) and extracted with EtOAc (100 mL). The organic layer was washed with water (2×50 mL) and brine (2×50 mL), dried (Na2SO4), filtered, and concentrated. Purification of the residue by flash chromatography on silica gel (5 to 30% EtOAc/hexanes) afforded 1,4-dioxaspiro[4.5]dec-7-en-8-yl trifluoromethanesulfonate. 1H NMR (500 MHz, CDCl3): δ 5.66 (m, 1H), 3.96-4.01 (m, 4H), 2.51-2.55 (m, 2H), 2.39-2.41 (m, 2H), 1.90 (t, J=6.6 Hz, 2H).

reactant | 1,4-dioxaspiro[4.5]decan-8-one | 9.6 mmol, 1.5 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 2-[N,N-bis(trifluormethyl-sulfonyl)amino]-5-chloropyridine | 9.6 mmol, 3.8 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=NC=C(C=C1)Cl)(F)F | C7H3ClF6N2O4S2
reactant | water | 100 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1,4-dioxaspiro[4.5]dec-7-en-8-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CCC2(OCCO2)CC1)(F)F | C9H11F3O5S
